US04250094
In a manner given in Example 1, 8-chloro-1-(α-chloropropyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine was reacted with dipropylamine in the presence of sodium iodide to give 8-chloro-1-[α-(dipropylamino)propyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(α-chloropropyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(CC)Cl)C3=C(C=CC=C3)Cl)C1 | C19H15Cl3N4
reactant | dipropylamine | C(CC)NCCC | C6H15N
reactant | sodium iodide | [I-].[Na+]
product | 8-chloro-1-[α-(dipropylamino)propyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(CC)N(CCC)CCC)C3=C(C=CC=C3)Cl)C1 | C25H29Cl2N5
